### PR TITLE
[Merged by Bors] - feat: elementary properties of meromorphic functions in normal form

### PR DESCRIPTION
**Pull request by kebekus**
Establishes locality properties of meromorphic functions in normal form, analogous to existing statements for analytic functions. Establishes that meromorphic functions have normal form outside of a codiscrete set. Describes the vanishing locus in terms of the order function. Establishes elementary criteria to guarantee normal form.

---

~~**Caveat Emptor!** This PR re-installs a theorem `AnalyticAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` that was previously criticised by reviewers. It adds an analogous theorem `MeromorphicNFAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` for meromorphic functions in normal form. The reason for bringing these theorems back is that they are used throughout [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. I will bring the issue up on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/API.20for.20continuous.20extension.20of.20meromorphic.20functions) and downgrade the PR to "draft" while the discussion is going.~~

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 1]
```diff
@@ -135,6 +124,151 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
 
+/-- Meromorphic functions have normal form outside of a discrete subset in the domain of
+meromorphicity. -/
+theorem MeromorphicOn.meromorphicNFAt_codiscreteWithin [CompleteSpace E] {U : Set 𝕜}
+    (hf : MeromorphicOn f U) :
+    { x | MeromorphicNFAt f x } ∈ Filter.codiscreteWithin U := by
+  filter_upwards [hf.analyticAt_codiscreteWithin] with _ ha
+  exact ha.meromorphicNFAt
+
+/- Private helper lemma. -/
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:135]: Note that mathlib requires that all *definitions* come with a docstring. Theorems/lemmas do not have to be documented, but it is fine to do so if the docstring helps understanding the statement (or provides a reference, etc...).
```suggestion
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 2]
```diff
@@ -135,6 +124,151 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+      simp [hy, smul_comm (g y) ((y - z₀) ^ n) (g_f y)]
+
+/-- If `f` is any function and `g` is analytic without zero at `z₀`, then `f` is meromorphic in
+normal form at `z₀` iff `g • f` is meromorphic in normal form at `z₀`. -/
+theorem meromorphicNFAt_iff_meromorphicNFAt_of_smul_analytic
+    {g : 𝕜 → 𝕜}
+    {f : 𝕜 → E}
+    {z₀ : 𝕜}
+    (h₁g : AnalyticAt 𝕜 g z₀)
+    (h₂g : g z₀ ≠ 0) :
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:247]:
```suggestion
    {g : 𝕜 → 𝕜} {f : 𝕜 → E} {z₀ : 𝕜} (h₁g : AnalyticAt 𝕜 g z₀) (h₂g : g z₀ ≠ 0) :
```
Are you putting `g` before `f` on purpose?

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 3]
```diff
@@ -135,6 +124,151 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+## Local nature of the definition and local identity theorem
+-/
+
+/-- Local identity theorem: two meromorphic functions in normal form agree in a
+neighborhood iff they agree in a pointed neighborhood.
+
+See `AnalytivAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` for the analogous
+statement for analytic functions.
+-/
+theorem MeromorphicNFAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd {f g : 𝕜 → E} {z₀ : 𝕜}
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:187]: I think `f`, `g`, and `z₀` can be turned into `variable`s. The case where you need `f : 𝕜 → 𝕜` could either be done by shadowing `f` in the statement, or by also adding a variable `phi`(?) of that type.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 4]
```diff
@@ -142,6 +142,21 @@ theorem frequently_eq_iff_eventually_eq (hf : AnalyticAt 𝕜 f z₀) (hg : Anal
     (∃ᶠ z in 𝓝[≠] z₀, f z = g z) ↔ ∀ᶠ z in 𝓝 z₀, f z = g z := by
   simpa [sub_eq_zero] using frequently_zero_iff_eventually_zero (hf.sub hg)
 
+/-- Local identity theorem: two analytic functions agree on a punctured
+neighborhood iff they agree on a neighborhood.
+
+See `MeromorphicNFAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` for the analogous
+statement for meromorphic functions in normal form.
+-/
+theorem eventuallyEq_nhdNE_iff_eventuallyEq_nhd (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:151]: So is this true as
```suggestion
theorem eventuallyEq_nhdNE_iff_eventuallyEq_nhd (hf : ContinuousAt f z₀) (hg : ContinuousAt g z₀) :
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 5]
```diff
@@ -135,6 +124,146 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+meromorphicity. -/
+theorem MeromorphicOn.meromorphicNFAt_codiscreteWithin [CompleteSpace E] {U : Set 𝕜}
+    (hf : MeromorphicOn f U) :
+    { x | MeromorphicNFAt f x } ∈ Filter.codiscreteWithin U := by
+  filter_upwards [hf.analyticAt_codiscreteWithin] with _ ha
+  exact ha.meromorphicNFAt
+
+private lemma WithTop.map_natCast_eq_zero {n : WithTop ℕ}
+  (hn : WithTop.map (Nat.cast : ℕ → ℤ) n = 0) :
+  n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:137]: Can't you more generally prove that `WithTop.map n = 0 \iff n = 0` for `n : ENat`?

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 6]
```diff
@@ -135,6 +124,146 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
 
+/-- Meromorphic functions have normal form outside of a discrete subset in the domain of
+meromorphicity. -/
+theorem MeromorphicOn.meromorphicNFAt_codiscreteWithin [CompleteSpace E] {U : Set 𝕜}
+    (hf : MeromorphicOn f U) :
+    { x | MeromorphicNFAt f x } ∈ Filter.codiscreteWithin U := by
+  filter_upwards [hf.analyticAt_codiscreteWithin] with _ ha
+  exact ha.meromorphicNFAt
+
+private lemma WithTop.map_natCast_eq_zero {n : WithTop ℕ}
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:135]:
```suggestion
private lemma WithTop.map_natCast_eq_zero {n : ENat}
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean]: Implemented.

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean:137]: I can probably do that … but this is only a private lemma that is only used once. I have therefore reduced the lemma to a minimum. Let me know if you want to expand the lemma, and then I will do that.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:151]: Yes. No. Yes. I mean, yes … but …

Long story: the statement you write down is true, but for a misleading reason. If `X` is a topological space [or even a metric space] and `f`, `g` are functions on `X`, then the statement is wrong in general. The simplest counterexample is that where `z₀` is an isolated point. The reason that it will work here is that the topologies of nontrivially normed fields are special …

I tried to write down the proof of your statement, and it quickly became long, protracted and absolutely awful. That was the point where I gave up last time. IMHO, it would make sense to leave the current, simple & easy theorem untouched, and add the philosophical correct statement to the topology section. But even with that in place, the current proof of the current statement might be easier than a proof using the topological statement, which would require us to go into the "nontrivially normed" condition…

Does that make sense? Or am I on the wrong path?

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean:137]: If you generalise it, then it can become an API lemma and you need 0 private lemma

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean:137]: OK, will do. Is there a preferred place to put them?

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:151]: Doesn't it work iff `z₀` isn't isolated. If so, you can state that `z₀` isn't an isolated point by doing `(𝓝[≠] z₀).NeBot`, or some similar filter statement (I think that's the correct one but I'm not super sharp at this filter stuff). Hopefully, the proof becomes easier too

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean]: Done as suggested.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:151]: If you don't see how to generalise this, I am happy to give it a go 🙂

File: Mathlib/Data/ENat/Basic.lean [hunk 7]
```diff
@@ -408,6 +408,19 @@ theorem map_natCast_nonneg [AddMonoidWithOne α] [PartialOrder α]
     [AddLeftMono α] [ZeroLEOneClass α] : 0 ≤ n.map (Nat.cast : ℕ → α) := by
   cases n <;> simp
 
+@[simp]
+lemma map_natCast_eq_zero :
+  WithTop.map (Nat.cast : ℕ → ℤ) n = 0 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Data/ENat/Basic.lean:413]: According to `strictMono_map_iff` just below, it's enough for `Nat.cast` to be strictly monotone. This is true by `Nat.cast_lt`. So can you prove the following?
* `ENat.map (Nat.cast : ℕ → α)` is strictly monotone if `[AddMonoidWithOne α] [PartialOrder α] [AddLeftMono α] [ZeroLEOneClass α] [CharZero α]`
* `ENat.map (Nat.cast : ℕ → α)` is injective if `[AddMonoidWithOne α] [PartialOrder α] [AddLeftMono α] [ZeroLEOneClass α] [CharZero α]`
* `ENat.map (Nat.cast : ℕ → α) n = 0 ↔ n = 0` if `[AddMonoidWithOne α] [PartialOrder α] [AddLeftMono α] [ZeroLEOneClass α] [CharZero α]`

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 8]
```diff
@@ -86,6 +86,21 @@ lemma order_eq_int_iff {f : 𝕜 → E} {x : 𝕜} (hf : MeromorphicAt f x) (n :
     exact ⟨fun h ↦ ⟨g, hg_an, hg_ne, h ▸ hg_eq⟩,
       AnalyticAt.unique_eventuallyEq_zpow_smul_nonzero ⟨g, hg_an, hg_ne, hg_eq⟩⟩
 
+/-- Meromorphic functions that agree in a punctured neighborhood of `z₀` have the same order at
+`z₀`. -/
+theorem order_congr {f₁ f₂ : 𝕜 → E} {x : 𝕜} (hf₁ : MeromorphicAt f₁ x)
+    (hf₁₂ : f₁ =ᶠ[𝓝[≠] x] f₂):
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/Order.lean:92]:
```suggestion
    (hf₁₂ : f₁ =ᶠ[𝓝[≠] x] f₂) :
```

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 9]
```diff
@@ -262,6 +262,17 @@ lemma const (e : E) {U : Set 𝕜} : MeromorphicOn (fun _ ↦ e) U :=
 
 section arithmetic
 
+include hf in
+/-- Meromorphic functions on `U` are analytic on `U`, outside of a discrete subset. -/
+theorem analyticAt_codiscreteWithin [CompleteSpace E] :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/Basic.lean:267]:
```suggestion
theorem analyticAt_mem_codiscreteWithin [CompleteSpace E] :
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 10]
```diff
@@ -135,6 +124,136 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
     MeromorphicNFAt f x := by
   simp [meromorphicNFAt_iff_analyticAt_or, hf]
 
+/-- Meromorphic functions have normal form outside of a discrete subset in the domain of
+meromorphicity. -/
+theorem MeromorphicOn.meromorphicNFAt_codiscreteWithin [CompleteSpace E] {U : Set 𝕜}
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:129]:
```suggestion
theorem MeromorphicOn.meromorphicNFAt_mem_codiscreteWithin [CompleteSpace E] {U : Set 𝕜}
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 11]
```diff
@@ -135,6 +124,136 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+  · right
+    use n, g • g_f, h₁g.smul h₁g_f
+    constructor
+    · simp [smul_ne_zero h₂g h₂g_f]
+    · filter_upwards [h₃g_f]
+      intro y hy
+      simp only [Pi.smul_apply', hy, Pi.pow_apply]
+      rw [smul_comm]
+
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:231]:
```suggestion
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 12]
```diff
@@ -135,6 +124,136 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+        Set.mem_singleton_iff] at hy
+      simp [hy]
+    rw [meromorphicNFAt_congr this]
+    exact hprod.meromorphicNFAt_of_smul_analytic (h₁g.inv h₂g) (inv_ne_zero h₂g)
+
+/-- If `f` is any function and `g` is analytic without zero at `z₀`, then `f` is meromorphic in
+normal form at `z₀` iff `g * f` is meromorphic in normal form at `z₀`. -/
+theorem meromorphicNFAt_iff_meromorphicNFAt_of_mul_analytic {f : 𝕜 → 𝕜} (h₁g : AnalyticAt 𝕜 g x)
+    (h₂g : g x ≠ 0) :
+    MeromorphicNFAt f x ↔ MeromorphicNFAt (g * f) x := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:253]:
```suggestion
theorem meromorphicNFAt_mul_iff_right {g : 𝕜 → 𝕜} (h₁f : AnalyticAt 𝕜 f x) (h₂f : f x ≠ 0) :
    MeromorphicNFAt (f * g) x ↔ MeromorphicNFAt g x := by
```
and can we also get `meromorphicNFAt_mul_iff_left`?

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:151]: I just uploaded an implementation of the statement for continuous maps. Please have a look.

File: Mathlib/Data/ENat/Basic.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Data/ENat/Basic.lean:413]: I am unsure I understand. Can you please expand your explanation?

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 13]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
   Subset.antisymm hf.image_closure <|
     closure_minimal (image_subset f subset_closure) (hs.image_of_continuousOn hf).isClosed
 
+/-- Two maps continuous maps into a Hausdorff space agree at a point iff they agree in a
```
Comment (jcommelin) [inline Mathlib/Topology/Separation/Hausdorff.lean:616]:
```suggestion
/-- Two continuous maps into a Hausdorff space agree at a point iff they agree in a
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 14]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+    intro x hx
+    simp only [Set.mem_inter_iff, Set.mem_preimage] at hx
+    by_contra H
+    rw [H] at hx
+    have : g x ∈ Uf ∩ Ug := hx
+    simp [h₅U] at this
+  · obtain ⟨t, h₁t, h₂t, h₃t⟩ := eventually_nhds_iff.1 hfg
+    exact h₁t x h₃t
+
+/-- Local identity principle for continuous maps: Two maps continuous maps into a Hausdorff space
```
Comment (jcommelin) [inline Mathlib/Topology/Separation/Hausdorff.lean:636]:
```suggestion
/-- Local identity principle for continuous maps: Two continuous maps into a Hausdorff space
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 15]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+    by_contra H
+    rw [H] at hx
+    have : g x ∈ Uf ∩ Ug := hx
+    simp [h₅U] at this
+  · obtain ⟨t, h₁t, h₂t, h₃t⟩ := eventually_nhds_iff.1 hfg
+    exact h₁t x h₃t
+
+/-- Local identity principle for continuous maps: Two continuous maps into a Hausdorff space
+agree in a punctured neighborhood of a non-isolated point iff they agree in a neighborhood. -/
+theorem ContinousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE [T2Space Y] {x : X} {f g : X → Y}
```
Comment (YaelDillies) [inline Mathlib/Topology/Separation/Hausdorff.lean:638]:
```suggestion
theorem ContinuousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE [T2Space Y] {x : X} {f g : X → Y}
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 16]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+    intro x hx
+    simp only [Set.mem_inter_iff, Set.mem_preimage] at hx
+    by_contra H
+    rw [H] at hx
+    have : g x ∈ Uf ∩ Ug := hx
+    simp [h₅U] at this
+  · obtain ⟨t, h₁t, h₂t, h₃t⟩ := eventually_nhds_iff.1 hfg
+    exact h₁t x h₃t
+
+/-- Local identity principle for continuous maps: Two continuous maps into a Hausdorff space
```
Comment (YaelDillies) [inline Mathlib/Topology/Separation/Hausdorff.lean:636]:
```suggestion
/-- **Local identity principle** for continuous maps: Two continuous maps into a Hausdorff space
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 17]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+agree in a punctured neighborhood of a non-isolated point iff they agree in a neighborhood. -/
+theorem ContinousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE [T2Space Y] {x : X} {f g : X → Y}
+    (hf : ContinuousAt f x) (hg : ContinuousAt g x) (h : Filter.NeBot (𝓝[≠] x)) :
+  f =ᶠ[𝓝[≠] x] g ↔ f =ᶠ[𝓝 x] g := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Separation/Hausdorff.lean:640]:
```suggestion
    f =ᶠ[𝓝[≠] x] g ↔ f =ᶠ[𝓝 x] g := by
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 18]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+    rw [H] at hx
+    have : g x ∈ Uf ∩ Ug := hx
+    simp [h₅U] at this
+  · obtain ⟨t, h₁t, h₂t, h₃t⟩ := eventually_nhds_iff.1 hfg
+    exact h₁t x h₃t
+
+/-- Local identity principle for continuous maps: Two continuous maps into a Hausdorff space
+agree in a punctured neighborhood of a non-isolated point iff they agree in a neighborhood. -/
+theorem ContinousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE [T2Space Y] {x : X} {f g : X → Y}
+    (hf : ContinuousAt f x) (hg : ContinuousAt g x) (h : Filter.NeBot (𝓝[≠] x)) :
```
Comment (YaelDillies) [inline Mathlib/Topology/Separation/Hausdorff.lean:639]:
```suggestion
    (hf : ContinuousAt f x) (hg : ContinuousAt g x) [(𝓝[≠] x).NeBot] :
```

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 19]
```diff
@@ -142,6 +142,17 @@ theorem frequently_eq_iff_eventually_eq (hf : AnalyticAt 𝕜 f z₀) (hg : Anal
...
+    f =ᶠ[𝓝[≠] z₀] g ↔ f =ᶠ[𝓝 z₀] g :=
+  ContinousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE
+    hf.continuousAt hg.continuousAt (NormedField.nhdsNE_neBot z₀)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:154]: With the below comment and the fact that `NormedField.nhdsNE_neBot` is an instance, you can drop this instance entirely! 🎉

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 20]
```diff
@@ -198,7 +316,7 @@ theorem meromorphicNFAt_toMeromorphicNFAt :
       split_ifs with h₃f
       · obtain ⟨h₁G, _, h₃G⟩ := Classical.choose_spec ((hf.order_eq_int_iff 0).1 (h₃f ▸ hn.symm))
         apply Filter.EventuallyEq.eq_of_nhds
-        apply h₁G.eventuallyEq_nhdNE_iff_eventuallyEq_nhd (by fun_prop)
+        apply (h₁G.eventuallyEq_nhdNE_iff_eventuallyEq_nhd (by fun_prop)).1
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:319]: `apply (lemma : _ \iff _).1` is better spelled `rw [lemma]`. Same below

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 21]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+/-!
+## Criteria to guarantee normal form
+-/
+
+/-- Helper lemma for `meromorphicNFAt_iff_meromorphicNFAt_of_smul_analytic`: if
+`f` is meromorphic in normal form at `x` and `g` is analytic without zero at
+`x`, then `g • f` is meromorphic in normal form at `x`. -/
+lemma MeromorphicNFAt.meromorphicNFAt_of_smul_analytic (hf : MeromorphicNFAt f x)
+    (h₁g : AnalyticAt 𝕜 g x) (h₂g : g x ≠ 0) :
+    MeromorphicNFAt (g • f) x := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:217]:
```suggestion
lemma MeromorphicNFAt.smul_analytic (hf : MeromorphicNFAt f x)
    (h₁g : AnalyticAt 𝕜 g x) (h₂g : g x ≠ 0) :
    MeromorphicNFAt (g • f) x := by
```
Same below

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 22]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+        Set.mem_singleton_iff] at hy
+      simp [hy]
+    rw [meromorphicNFAt_congr this]
+    exact hprod.meromorphicNFAt_of_smul_analytic (h₁g.inv h₂g) (inv_ne_zero h₂g)
+
+/-- If `f` is any function and `g` is analytic without zero at `z₀`, then `f` is meromorphic in
+normal form at `z₀` iff `g * f` is meromorphic in normal form at `z₀`. -/
+theorem meromorphicNFAt_mul_iff_right {f : 𝕜 → 𝕜} (h₁g : AnalyticAt 𝕜 g x)
+    (h₂g : g x ≠ 0) :
+    MeromorphicNFAt f x ↔ MeromorphicNFAt (g * f) x := by
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean:252]: Done.

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 23]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+
+/-- **Local identity principle** for continuous maps: Two continuous maps into a Hausdorff space
+agree in a punctured neighborhood of a non-isolated point iff they agree in a neighborhood. -/
+theorem ContinuousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE [T2Space Y] {x : X} {f g : X → Y}
+    (hf : ContinuousAt f x) (hg : ContinuousAt g x) [(𝓝[≠] x).NeBot] :
+    f =ᶠ[𝓝[≠] x] g ↔ f =ᶠ[𝓝 x] g := by
+  constructor <;> intro hfg
+  · apply eventuallyEq_nhds_of_eventuallyEq_nhdsNE hfg
+    by_contra hCon
+    have : {x | f x ≠ g x ∧ f x = g x} ≠ ∅ := by
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Topology/Separation/Hausdorff.lean]: Done.

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 24]
```diff
@@ -613,6 +613,47 @@ theorem image_closure_of_isCompact [T2Space Y] {s : Set X} (hs : IsCompact (clos
...
+      have h₁ := (eventually_nhdsWithin_of_eventually_nhds
+        ((hf.ne_iff_eventually_ne hg).1 hCon)).and hfg
+      have h₂ : ∅ ∉ 𝓝[≠] x := by exact empty_not_mem (𝓝[≠] x)
+      rw [Filter.neBot_iff] at h
+      by_contra H
+      rw [Filter.Eventually, H] at h₁
+      tauto
+    rw [← Set.nonempty_iff_ne_empty] at this
+    obtain ⟨a, ha⟩ := this
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Topology/Separation/Hausdorff.lean]: Done.

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 25]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+    · filter_upwards [h₃g_f]
+      intro y hy
+      simp only [Pi.smul_apply', hy, Pi.pow_apply]
+      rw [smul_comm]
+
+/-- If `f` is any function and `g` is analytic without zero at `z₀`, then `f` is meromorphic in
+normal form at `z₀` iff `g • f` is meromorphic in normal form at `z₀`. -/
+theorem meromorphicNFAt_iff_meromorphicNFAt_of_smul_analytic (h₁g : AnalyticAt 𝕜 g x)
+    (h₂g : g x ≠ 0) :
+    MeromorphicNFAt f x ↔ MeromorphicNFAt (g • f) x := by
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean]: Done.

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 20 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean:319]: Done elsewhere but not here. With the `rw` tactic, the clause `by fun_prop` no longer works.

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 21 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean]: Done.

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 26]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+    hf.meromorphicAt.order = 0 ↔ f x ≠ 0 := by
+  constructor
+  · intro h₁f
+    have h₂f := hf.order_nonneg_iff_analyticAt.1 (le_of_eq h₁f.symm)
+    apply h₂f.order_eq_zero_iff.1
+    apply ENat.map_natCast_eq_zero.1
+    rwa [h₂f.meromorphicAt_order] at h₁f
+  · intro h
+    have hf' := hf
+    rcases hf with h₁ | ⟨n, g, h₁g, h₂g, h₃g⟩
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:153]: Here is a trick to avoid needing to duplicate the hypothesis
```suggestion
    rcases id hf with h₁ | ⟨n, g, h₁g, h₂g, h₃g⟩
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 27]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+    · have := h₁.eq_of_nhds
+      tauto
+    · have : n = 0 := by
+        by_contra hContra
+        have := Filter.EventuallyEq.eq_of_nhds h₃g
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:158]:
```suggestion
        have := h₃g.eq_of_nhds
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 28]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+    (hf : MeromorphicNFAt f x) (hg : MeromorphicNFAt g x) :
+    f =ᶠ[𝓝[≠] x] g ↔ f =ᶠ[𝓝 x] g := by
+  constructor
+  · intro h
+    have t₀ := hf.meromorphicAt.order_congr h
+    by_cases cs : hf.meromorphicAt.order = 0
+    · rw [cs] at t₀
+      have Z := (hf.order_nonneg_iff_analyticAt.1 (le_of_eq cs.symm)).continuousAt
+      have W := (hg.order_nonneg_iff_analyticAt.1 (le_of_eq t₀)).continuousAt
+      exact (ContinuousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE Z W).1 h
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:187]:
```suggestion
      exact (Z.eventuallyEq_nhd_iff_eventuallyEq_nhdNE W).1 h
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 29]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+
+/-!
+## Local nature of the definition and local identity theorem
+-/
+
+/-- Local identity theorem: two meromorphic functions in normal form agree in a
+neighborhood iff they agree in a pointed neighborhood.
+
+See `AnalytivAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` for the analogous
+statement for analytic functions.
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:175]:
```suggestion
See `ContinuousAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` for the analogous
statement for continuous functions.
```

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 30]
```diff
@@ -135,6 +124,143 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+      apply (hf'.meromorphicAt.order_eq_int_iff 0).2
+      use g, h₁g, h₂g
+      simp only [zpow_zero, smul_eq_mul, one_mul]
+      exact h₃g.filter_mono nhdsWithin_le_nhds
+
+/-!
+## Local nature of the definition and local identity theorem
+-/
+
+/-- Local identity theorem: two meromorphic functions in normal form agree in a
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:171]:
```suggestion
/-- **Local identity theorem**: two meromorphic functions in normal form agree in a
```

File: Mathlib/Data/ENat/Basic.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Data/ENat/Basic.lean]: I have pushed a commit performing what I was requesting

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean (hunk 26 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalFormAt.lean:153]: Ah! There is so much notation to learn.

File: Mathlib/Data/ENat/Basic.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Data/ENat/Basic.lean]: Thanks.

File: Mathlib/Analysis/Meromorphic/NormalFormAt.lean [hunk 31]
```diff
@@ -135,6 +124,142 @@ theorem AnalyticAt.meromorphicNFAt (hf : AnalyticAt 𝕜 f x) :
...
+    exact hprod.smul_analytic (h₁g.inv h₂g) (inv_ne_zero h₂g)
+  · exact fun hf ↦ hf.smul_analytic h₁g h₂g
+
+/-- If `f` is any function and `g` is analytic without zero at `z₀`, then `f` is meromorphic in
+normal form at `z₀` iff `g * f` is meromorphic in normal form at `z₀`. -/
+theorem meromorphicNFAt_mul_iff_right {f : 𝕜 → 𝕜} (h₁g : AnalyticAt 𝕜 g x)
+    (h₂g : g x ≠ 0) :
+    MeromorphicNFAt (g * f) x ↔ MeromorphicNFAt f x := by
+  rw [← smul_eq_mul]
+  exact meromorphicNFAt_smul_iff_right_of_analyticAt h₁g h₂g
```
Comment (YaelDillies) [inline Mathlib/Analysis/Meromorphic/NormalFormAt.lean:253]:
```suggestion
    MeromorphicNFAt (g * f) x ↔ MeromorphicNFAt f x :=
  meromorphicNFAt_smul_iff_right_of_analyticAt h₁g h₂g
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
Thanks to everybody for your help!
